US05059609
2-Benzyl-3,4-dihydro-7-methoxy-1(2H)-naphthalenone
To a -78° C. solution of lithium diisopropyl amide (from 43.8 ml (0.312 mol) of diisopropyl amine in 280 ml tetrahydrofuran and 119 ml (0.298 mol) of 2.5M n-butyllithium) was slowly added a solution of 50 g (0.285 mol) of 7-methoxy-3,4-dihydro-1(2H)-naphthalenone in 100 ml tetrahydrofuran. The resultant reaction mixture was stirred 10 minutes at -78° C. The cooling bath was charged to a 0° C. ice bath, followed immediately by the rapid addition of 38 ml (0.32 mol) of benzyl bromide. Hexamethylphosphoramide (106 ml, 0.60 mol) was then added and the resultant solution stirred at 25° C. for 2 hours. The reaction was added to saturated NH4Cl and saturated NaCl, dried over MgSO4, and evaporated to an oil, which was purified via column chromatography on 1 Kg of silica gel eluted with 10% ether-hexane to give 20 g (26%) of the title compound as an oil.

reactant | lithium diisopropyl amide | 0.312 mol, 2.5M, 43.8 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropyl amine | 0.312 mol | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.298 mol, 2.5M | C(CCC)[Li]
reactant | 7-methoxy-3,4-dihydro-1(2H)-naphthalenone | 0.285 mol, 50 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | benzyl bromide | 0.32 mol, 38 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Hexamethylphosphoramide | 0.60 mol, 106 ml | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
reactant | NH4Cl | [NH4+].[Cl-]
reactant | NaCl | [Na+].[Cl-]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-Benzyl-3,4-dihydro-7-methoxy-1(2H)-naphthalenone | 20 g, 26% | C(C1=CC=CC=C1)C1C(C2=CC(=CC=C2CC1)OC)=O | C18H18O2
